US08975415B2
A mixture of di-tert-butyl (6′-bromotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl)imidodicarbonate (300 mg, 0.531 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (150 mg, 0.584 mmol), potassium acetate (91.1 mg, 0.928 mmol) and bis(triphenylphosphine)palladium(II) dichloride (37 mg, 0.053 mmol) in dioxane (2.4 mL) was stirred for 7 hours at 100° C. To the mixture was added 3-bromo-2-cyanopyridine (243 mg, 1.33 mmol), Na2CO3 (225 mg, 2.12 mmol) and water (0.60 mL), and the mixture was stirred for 2 hours at 100° C. The mixture was treated with charcoal, and filtered off. The filtrate was partitioned between EtOAc and water. The organic layer was washed with brine, dried over MgSO4, filtered, and the filtrate was evaporated to give a pale brown oil. The oil was dissolved in toluene (3.0 mL) and to the mixture was added silica gel (neutral; 900 mg). The mixture was refluxed for 1 hour. The solvent was evaporated off. Silica gel column chromatography (CHCl3-EtOH, a linear gradient of EtOH from 0 to 10%) afforded a solid. The solid was triturated in Et2O, collected by filtration, washed with Et2O and dried at reduced pressure at 70° C. to give 3-(2″-aminotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-6′-yl)pyridine-2-carbonitrile (141 mg).

reactant | di-tert-butyl (6′-bromotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl)imidodicarbonate | 0.531 mmol, 300 mg | BrC=1C=C2C(=CC1)OC1(CCC1)C1(COC1)C21N=C(OC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C26H33BrN2O7
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.584 mmol, 150 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.928 mmol, 91.1 mg | C(C)(=O)[O-].[K+]
reactant | 3-bromo-2-cyanopyridine | 1.33 mmol, 243 mg | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | Na2CO3 | 2.12 mmol, 225 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | charcoal | C | CH4
solvent | dioxane | 2.4 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.053 mmol, 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.60 mL | O | H2O
product | 3-(2″-aminotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-6′-yl)pyridine-2-carbonitrile | 141 mg | NC=1OCC2(N1)C1=CC(=CC=C1OC1(CCC1)C21COC1)C=1C(=NC=CC1)C#N | C22H20N4O3
